US06428912B1
Preparation of Tris (9-oxidophenalenone) aluminum [Al(9-opo)3]
9-Hydroxyphenalenone (1.5 g) was placed in a 100 mL round-bottom flask. Dry toluene (50 mL) was added to the flask together with aluminum chloride (0.113 g). The solution turned yellow-orange, and a precipitate began to form. The mixture was refluxed at 110° C. overnight. The flask was then cooled and the contents filtered. Crude yield 1.69 g, mp>300° C.

reactant | 9-Hydroxyphenalenone | 1.5 g | OC1=CC=C2C=CC=C3C=CC(C1=C32)=O | C13H8O2
reactant | aluminum chloride | 0.113 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Tris (9-oxidophenalenone) aluminum | [Al+3].[O-]C1=CC=C2C=CC=C3C=CC(C1=C32)=O.[O-]C3=CC=C2C=CC=C1C=CC(C3=C12)=O.[O-]C1=CC=C2C=CC=C3C=CC(C1=C32)=O | InChI=1S/3C13H8O2.Al/c3*14-10-6-4-8-2-1-3-9-5-7-11(15)13(10)12(8)9;/h3*1-7,14H;/q;;;+3/p-3
